US07723331B2
c) tert-Butyl 4-[(6-{[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]methyl}pyridin-2-yl)oxy]piperidine-1-carboxylate
Prepared from tert-butyl 4-{[6-(aminomethyl)pyridin-2-yl]oxy}piperidine-1-carboxylate (629 mg, 2.05 mmol) and 5-(4-chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester (662 mg, 2.05 mmol) according to the procedure in Example 14c. Purification by silica gel flash chromatography using a 40+M Biotage column with a gradient of 10-100% EtOAc in heptane yielded the title compound as a colorless solid. Yield: 679 mg (60%). 1H NMR (400 MHz, CDCl3) δ 8.27 (s, 1H), 7.60 (m, 2H), 7.53 (t, 1H, J=7.7 Hz), 7.46 (s, 1H), 7.39 (m, 2H), 6.95 (d, 1H, J=7.2 Hz), 6.60 (d, 1H, J=8.2 Hz), 5.18 (s, 2H), 4.96 (m, 1H), 3.66 (m, 2H), 3.09 (m, 2H), 1.78 (m, 2H), 1.56 (m, 2H), 1.41 (s, 9H).

reactant | tert-butyl 4-{[6-(aminomethyl)pyridin-2-yl]oxy}piperidine-1-carboxylate | 2.05 mmol, 629 mg | NCC1=CC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C16H25N3O3
reactant | 5-(4-chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester | 2.05 mmol, 662 mg | COC(=O)C=1SC(=CC1N=CN(C)C)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
product | tert-Butyl 4-[(6-{[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]methyl}pyridin-2-yl)oxy]piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C28H29ClN4O4S
